US08536168B2
6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-N-(2-hydroxyethyl)-N-methyl-nicotinamide
6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid (100 mg, 0.225 mmol), DMF (0.5 mL), Diisopropylethylamine (195 μL, 1.125 mmol), HBTU (102 mg, 0.270 mmol), and 2-(methylamino)ethanol (18 μL, 0.225 mmol) are combined in a 10 mL flask and stirred for 4 h at room temperature. Concentrate to remove DMF in vacuo. The residue is purified by flash chromatography on silica gel (0-25% MeOH/CH2Cl2 with 5% TEA) to afford the title compound (68.2 mg, 61%).

reactant | 6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-nicotinic acid | 0.225 mmol, 100 mg | FC1=CC=C(CC2=NN=C(C3=CC=CC=C23)N2CCN(CC2)C2=NC=C(C(=O)O)C=C2)C=C1 | C25H22FN5O2
reactant | Diisopropylethylamine | 1.125 mmol, 195 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HBTU | 0.270 mmol, 102 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-(methylamino)ethanol | 0.225 mmol, 18 μL | CNCCO | C3H9NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 6-{4-[4-(4-Fluoro-benzyl)-phthalazin-1-yl]-piperazin-1-yl}-N-(2-hydroxyethyl)-N-methyl-nicotinamide | 68.2 mg, 61% | FC1=CC=C(CC2=NN=C(C3=CC=CC=C23)N2CCN(CC2)C2=NC=C(C(=O)N(C)CCO)C=C2)C=C1 | C28H29FN6O2
